US04032511
Moist silicic acid gel, equivalent to 20 parts by weight of dry silicic acid gel, 20 parts by weight of resorcinol and 2 parts by weight of sodium carbonate are mixed then heated to above the melting point and below the boiling point of resorcinol for 15 to 100 minutes while agitating at ambient pressure, thereby producing a resorcinol silicate, a brown granular compound.

reactant | silicic acid | [Si](O)(O)(O)O | H4O4Si
reactant | resorcinol | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | resorcinol silicate | [Si](O)(O)(O)O.C1(O)=CC(O)=CC=C1 | InChI=1S/C6H6O2.H4O4Si/c7-5-2-1-3-6(8)4-5;1-5(2,3)4/h1-4,7-8H;1-4H
